US07939526B2
Solid sodium hydride (30 mg of 60% dispersion in mineral oil, 0.72 mmol) was added to a stirred solution of 1-[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol (2.15 g, 7.2 mmol) and phenyl vinyl sulfone (2.42 g, 14.4 mmol) in anhydrous tetrahydrofuran (29 mL). The reaction mixture was stirred at ambient temperature for about 1 hour, and then it was quenched with water (50 mL) and extracted with ethyl acetate (3×50 mL). The combined extracts were washed with brine (50 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to provide crude product as an oil. This material was purified by column chromatography (silica gel eluting with 95/5 dichloromethane/methanol) to provide 0.95 g of 2-ethoxymethyl-1-{2-[2-(phenylsulfonyl)ethoxy]-2-methylpropyl}-1H-imidazo[4,5-c]quinoline as a colorless foam.

reactant | sodium hydride | 0.72 mmol, 30 mg | [H-].[Na+]
reactant | 1-[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | 7.2 mmol, 2.15 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)(O)C | C17H21N3O2
reactant | phenyl vinyl sulfone | 14.4 mmol, 2.42 g | C(=C)S(=O)(=O)C1=CC=CC=C1 | C8H8O2S
solvent | tetrahydrofuran | 29 mL | O1CCCC1 | C4H8O
product | 2-ethoxymethyl-1-{2-[2-(phenylsulfonyl)ethoxy]-2-methylpropyl}-1H-imidazo[4,5-c]quinoline | 0.95 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)(C)OCCS(=O)(=O)C1=CC=CC=C1 | C25H29N3O4S
